US07576115B2
Synthesis of N′-[1-{5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl}ethylidene]-2-thioxo-2,3-dihydro-1H-benzo[d]imidazole-5-carbohydrazide
To a suspension of 3,4-diamino-N′-[1-{5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl}ethylidene]benzohydrazide(30 mg, 0.064 mmol, see the synthetic example 176) in tetrahydrofuran (3.0 mL) was added sodium tert-butoxide (12 mg, 0.13 mmol) and N,N′-thiocarbonyldiimidazole (23 mg, 0.13 mmol). The reaction mixture turned clear orange and was stirred at room temperature for 16 hours, and then was acidified with 1M aqueous HCl solution (1.0 mL) and concentrated under the reduced pressure. The precipitated solid was collected by filtration, washed with chloroform, washed with methanol and dried by means of a vacuum pump to give the desired product as a pale brown solid (yield 52%).

reactant | 3,4-diamino-N′-[1-{5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl}ethylidene]benzohydrazide | NC=1C=C(C(=O)NN=C(C)C2=CSC(=C2O)C2=CC(=C(C=C2)Cl)Cl)C=CC1N | C19H16Cl2N4O2S
reactant | sodium tert-butoxide | 0.13 mmol, 12 mg | CC(C)([O-])C.[Na+]
reactant | N,N′-thiocarbonyldiimidazole | 0.13 mmol, 23 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | HCl | 1M, 1.0 mL | Cl | ClH
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | N′-[1-{5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl}ethylidene]-2-thioxo-2,3-dihydro-1H-benzo[d]imidazole-5-carbohydrazide | yield 52% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC2=C(NC(N2)=S)C=C1)O | C20H14Cl2N4O2S2
